US04175189
10 G. of 2,4-diamino-6-[3,6-dihydro-1(2H)-pyridyl]pyrimidine-3-oxide are stirred at 5° C. in 150 ml. of methylene chloride and 30 ml. of triethylamine and treated with 20 ml. of chloroformic acid 2-methoxyethyl ester. The mixture is stirred at room temperature for 4 hours, then washed with water and extracted with methylene chloride. The organic phases are evaporated under reduced pressure and the residue is recrystallized from diethyl ether, there being obtained bis(2-methoxyethyl) 6-[3,6-dihydro-1(2H)-pyridyl]-2,4-pyrimidine-dicarbamate-3-oxide, having a melting point of 126°-128° C.

reactant | 2,4-diamino-6-[3,6-dihydro-1(2H)-pyridyl]pyrimidine-3-oxide | NC1=NC(=CC(=[N+]1[O-])N)N1CCC=CC1 | C9H13N5O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | chloroformic acid 2-methoxyethyl ester | COCCOC(=O)Cl | C4H7ClO3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | bis(2-methoxyethyl) 6-[3,6-dihydro-1(2H)-pyridyl]-2,4-pyrimidine-dicarbamate-3-oxide | N1(CCC=CC1)C1=CC(=[N+](C(=N1)NC(=O)OCCOC)[O-])NC(=O)OCCOC | C17H25N5O7
